US04496560
A mixture of 1-(2-dimethylaminoethyl)-thiourea (22 g) in methylene chloride (200 cc) is added to a solution of 2-benzhydryloxycarbonyl-3-(1-bromo-2-oxoethyl)-7-t-butoxycarbonylamino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (88 g) in anhydrous tetrahydrofuran (500 cc). After having been stirred for 24 hours at 25° C., the reaction mixture is poured onto a mixture of ethyl acetate (1.5 liters) and saturated sodium bicarbonate solution (1.5 liters). The organic phase is washed with saturated sodium bicarbonate solution (1 liter), distilled water (1 liter) and saturated sodium chloride solution (1 liter) and is then dried over anhydrous magnesium sulphate. After filtration, and concentration of the filtrate under reduced pressure (20 mm Hg; 2.7 kPa), the residue is purified by chromatography on silica gel (0.063-0.2 mm) [height of the silica layer: 38 cm, column diameter: 10 cm], elution being carried out with methylene chloride (5 liters) and then with a mixture (11 liters) of methylene chloride and methanol (90:10 by volume), and 1 liter fractions being collected. On concentrating fractions 14 to 16 to dryness, a yellow froth (15 g) is obtained, which is dissolved in hot acetonitrile (100 cc). On cooling, 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-[2-(2-dimethylamino-ethylamino)-thiazol-5-yl ]-8-oxo-5-thia-1-azabicyclo[4.2.0]-oct-2-ene (3 g) is obtained in the form of white crystals (instantaneous melting point, by the Kofler method, 163° C.).

reactant | 1-(2-dimethylaminoethyl)-thiourea | 22 g | CN(CCNC(=S)N)C | C5H13N3S
reactant | 2-benzhydryloxycarbonyl-3-(1-bromo-2-oxoethyl)-7-t-butoxycarbonylamino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 88 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C(C=O)Br)NC(=O)OC(C)(C)C)=O | C27H27BrN2O6S
reactant | ethyl acetate | 1.5 liters | C(C)(=O)OCC | C4H8O2
reactant | sodium bicarbonate | 1.5 liters | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 200 cc | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 500 cc | O1CCCC1 | C4H8O
solvent | acetonitrile | 100 cc | C(C)#N | C2H3N
product | 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-[2-(2-dimethylamino-ethylamino)-thiazol-5-yl ]-8-oxo-5-thia-1-azabicyclo[4.2.0]-oct-2-ene | 3 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C1=CN=C(S1)NCCN(C)C)NC(=O)OC(C)(C)C)=O | C32H37N5O5S2
